### PR TITLE
[gauss2] [wip] golf HExpansions.lean

### PR DESCRIPTION
**Pull request by b-mehta**

### CODE REVIEW

File: SpherePacking/MagicFunction/g/CohnElkies/AnotherIntegral/B/ThetaAxis/HExpansions.lean [hunk 1]
```diff
@@ -46,15 +45,15 @@ lemma norm_pow4_sub_le (x y : ℂ) :
     calc
       ‖x ^ (2 : ℕ) * y‖ = ‖x‖ ^ 2 * ‖y‖ := by simp [norm_pow]
       _ ≤ (‖x‖ + ‖y‖) ^ 2 * (‖x‖ + ‖y‖) := by
-            refine mul_le_mul ?_ hy (by positivity) (by positivity)
-            simpa using pow_le_pow_left₀ (norm_nonneg _) hx 2
+            exact mul_le_mul (by simpa using pow_le_pow_left₀ (norm_nonneg _) hx 2)
+              hy (by positivity) (by positivity)
```
Comment (b-mehta) [inline SpherePacking/MagicFunction/g/CohnElkies/AnotherIntegral/B/ThetaAxis/HExpansions.lean:49]: I expect `gcongr` to help here.

File: SpherePacking/MagicFunction/g/CohnElkies/AnotherIntegral/B/ThetaAxis/HExpansions.lean [hunk 2]
```diff
@@ -46,15 +45,15 @@ lemma norm_pow4_sub_le (x y : ℂ) :
...
       _ = (‖x‖ + ‖y‖) ^ 3 := by ring
   have hxy2 : ‖x * y ^ (2 : ℕ)‖ ≤ (‖x‖ + ‖y‖) ^ 3 := by
     calc
       ‖x * y ^ (2 : ℕ)‖ = ‖x‖ * (‖y‖ ^ 2) := by simp [norm_pow]
       _ ≤ (‖x‖ + ‖y‖) * (‖x‖ + ‖y‖) ^ 2 := by
-            refine mul_le_mul hx ?_ (by positivity) (by positivity)
-            simpa using pow_le_pow_left₀ (norm_nonneg _) hy 2
+            exact mul_le_mul hx (by simpa using pow_le_pow_left₀ (norm_nonneg _) hy 2)
+              (by positivity) (by positivity)
```
Comment (b-mehta) [inline SpherePacking/MagicFunction/g/CohnElkies/AnotherIntegral/B/ThetaAxis/HExpansions.lean:56]: I expect `gcongr` to help here too.

File: SpherePacking/MagicFunction/g/CohnElkies/AnotherIntegral/B/ThetaAxis/HExpansions.lean [hunk 3]
```diff
@@ -152,63 +143,14 @@ public lemma exists_bound_norm_H2_resToImagAxis_sub_two_terms_Ici_one :
...
-          (Real.exp (-(3 : ℝ) * Real.pi * t) : ℂ) := by
-      simpa using congrArg (fun r : ℝ => (r : ℂ)) hmulR
-    calc
-      a ^ (3 : ℕ) * b
-          = (Real.exp (-(3 / 4 : ℝ) * Real.pi * t) : ℂ) *
-              (Real.exp (-(9 / 4 : ℝ) * Real.pi * t) : ℂ) := by
-                simp [ha3, b]
-      _ = (Real.exp (-(3 : ℝ) * Real.pi * t) : ℂ) := hmulC
+    simp only [a, b, ← Complex.ofReal_pow, ← Complex.ofReal_mul]
+    congr 1; rw [← Real.exp_nat_mul, ← Real.exp_add]; congr 1; ring
```
Comment (b-mehta) [inline SpherePacking/MagicFunction/g/CohnElkies/AnotherIntegral/B/ThetaAxis/HExpansions.lean:153]: This is an instance of banned `;` - why was this not picked up already?

File: SpherePacking/MagicFunction/g/CohnElkies/AnotherIntegral/B/ThetaAxis/HExpansions.lean [hunk 4]
```diff
@@ -416,56 +291,35 @@ lemma exists_bound_norm_H3_resToImagAxis_sub_two_terms_Ici_one :
...
-          simpa [harg] using (Real.exp_nat_mul (-Real.pi * t) 3).symm
-        simpa [mul_assoc] using hx'
-      have hnormq : ‖q'‖ = Real.exp (-Real.pi * t) := by
-        simp [q', abs_of_nonneg (Real.exp_pos _).le, -Complex.ofReal_exp]
-      calc
-        ‖q' ^ (3 : ℕ)‖ = ‖q'‖ ^ (3 : ℕ) := by simp [norm_pow]
-        _ = (Real.exp (-Real.pi * t)) ^ (3 : ℕ) := by simp [hnormq]
-        _ = Real.exp (-(3 : ℝ) * Real.pi * t) := hx
+      simp only [norm_pow, q', Complex.norm_real, Real.norm_eq_abs,
+        abs_of_nonneg (Real.exp_pos _).le, ← Real.exp_nat_mul]; congr 1; ring
```
Comment (b-mehta) [inline SpherePacking/MagicFunction/g/CohnElkies/AnotherIntegral/B/ThetaAxis/HExpansions.lean:322]: bad
